US06617346B1
Hydrogen chloride gas was passed through a solution of ethyl 3-cyano-5-methoxymethyl-benzoate (300 mg, 1.368 mmol) in anhydrous ethanol (15 mL) at 0° C. After 3 h, hydrogen chloride gas was stopped and the reaction vessel was sealed with a septum. After stirring at room temperature overnight, the reaction vessel was cooled to 0° C. and the septum was removed. The solvent was evaporated in vacuo and the residue was triturated in diethyl ether to afford ethyl 3-ethoxycarbonimidoyl-5-methoxymethyl-benzoate (200 mg, 49%).

reactant | Hydrogen chloride | Cl | ClH
reactant | ethyl 3-cyano-5-methoxymethyl-benzoate | 1.368 mmol, 300 mg | C(#N)C=1C=C(C(=O)OCC)C=C(C1)COC | C12H13NO3
reactant | ethanol | 15 mL | C(C)O | C2H6O
product | ethyl 3-ethoxycarbonimidoyl-5-methoxymethyl-benzoate | 200 mg, 49% | C(C)OC(=N)C=1C=C(C(=O)OCC)C=C(C1)COC | C14H19NO4
